US05219876
2-Cyano-2-[4-(phenylethinyl)phenyl]butyl bromide
To a solution of 5 g (0.021 mol) 2-[4-(phenylethinyl)phenyl]-butyronitrile in 65 ml CH2Br2 are added, with stirring, 64 g 50% (0.8 mol) NaOH and 5.5 g (0.025 mol) benzyltriethylammoniumchloride. The mixture is stirred for 5 hours at 95°, cooled and 250 ml CH2Cl2 are added. The organic phase is separated off, washed, dried and evaporated in vacuum. The thus obtained title compound is kept for one hour at 70°-80° under high vacuum and crystallises from toluene: ligroine 1:2, m.p. 107°.

reactant | 2-[4-(phenylethinyl)phenyl]-butyronitrile | 0.021 mol, 5 g | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)C(C#N)CC | C18H15N
reactant | NaOH | 0.8 mol, 64 g | [OH-].[Na+]
reactant | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Br2 | 65 ml | C(Br)Br | CH2Br2
catalyst | benzyltriethylammoniumchloride | 0.025 mol, 5.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2-Cyano-2-[4-(phenylethinyl)phenyl]butyl bromide | C(#N)C(CBr)(CC)C1=CC=C(C=C1)C#CC1=CC=CC=C1 | C19H16BrN
